US03947582
To a solution of 0.6 gm. of sodium cyanide in 25 ml. of dimethyl sulfoxide preheated to 65°-70°C. is slowly added 2.5 gm. of 2-(4-bromomethyl-3-fluorophenyl)-benzoxazole. The reaction mixture is heated at 60°-70°C. for 1 hour, then cooled and poured into water. The resulting precipitate is filtered off and chromatographed on 300 gm. of silica gel. Elution with methylene chloride gives 4-(benzoxazol-2-yl)-2-fluorophenylacetonitrile.

reactant | sodium cyanide | [C-]#N.[Na+]
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | 2-(4-bromomethyl-3-fluorophenyl)-benzoxazole | BrCC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)F | C14H9BrFNO
solvent | water | O | H2O
product | 4-(benzoxazol-2-yl)-2-fluorophenylacetonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)CC#N)F | C15H9FN2O
